US05532240
The reaction and procedure were conducted in a similar manner as in Example 24 using 0.5 g of 2-(2-chloroethyl)-4,6,7,8-tetrahydro-5H-thieno[3,2-b]azepin-5-one and 0.5 g of 4-(6-fluorobenzo(b)thiophen-3-yl)piperidine hydrochloride to give 0.2 g of 2-(2-(4-(6-fluoro-benzo(b)thiophen-3-yl)piperidin-1-yl)ethyl)-4,6,7,8-tetrahydro-5H-thieno[3,2-b]azepin-5-one, m.p. 191°-193° C.

reactant | 2-(2-chloroethyl)-4,6,7,8-tetrahydro-5H-thieno[3,2-b]azepin-5-one | 0.5 g | ClCCC1=CC=2NC(CCCC2S1)=O | C10H12ClNOS
reactant | 4-(6-fluorobenzo(b)thiophen-3-yl)piperidine hydrochloride | 0.5 g | Cl.FC=1C=CC2=C(SC=C2C2CCNCC2)C1
product | 2-(2-(4-(6-fluoro-benzo(b)thiophen-3-yl)piperidin-1-yl)ethyl)-4,6,7,8-tetrahydro-5H-thieno[3,2-b]azepin-5-one | 0.2 g | FC=1C=CC2=C(SC=C2C2CCN(CC2)CCC2=CC=3NC(CCCC3S2)=O)C1 | C23H25FN2OS2
